US08487133B2
(2S,5R)-2-isopropyl-5-methyl-bicyclo[4.1.0]heptane-7-carboxylic acid
1.9 g of 2-isopropyl-5-methyl-bicyclo[4.1.0]heptane-7-carboxylic acid ethyl ester (66%) from synthesis example 1a are boiled under reflux for 3 hours with 20 ml of 10% sodium hydroxide solution. 25 ml of 10% hydrochloric acid are added and the mixture is extracted twice with 50 ml of diethyl ether. The organic phases are dried with sodium sulfate and the solvent is distilled off under vacuum. 1.37 g of a crude product containing 69% of the 2-isopropyl-5-methyl-bicyclo[4.1.0]heptane-7-carboxylic acid isomers are obtained.

reactant | 2-isopropyl-5-methyl-bicyclo[4.1.0]heptane-7-carboxylic acid ethyl ester | 1.9 g | C(C)OC(=O)C1C2C(CCC(C12)C(C)C)C | C14H24O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | (2S,5R)-2-isopropyl-5-methyl-bicyclo[4.1.0]heptane-7-carboxylic acid | C(C)(C)[C@H]1C2C(C2[C@@H](CC1)C)C(=O)O | C12H20O2
